US04614833
3-benzoyl-2-chloro-pyridine
To a cooled solution of 150 g 2-chloro-nicotinoyl chloride in 400 ml benzene there is added slowly 238 g AlCl3. After refluxing 2 hrs. the reaction mixture is added with stirring to a slightly acidic ice: water mixture. The organic layer is separated and the aqueous one is extracted with ethyl ether. The combined organic layers are washed with HONa 1N, then with water, and dried over Na2SO4. The excess benzene is distilled at water pump pressure in a rotary evaporator and the residual oil is distilled in vacuo. Yield: 157 g of title product, b.p. 123° C./0.05 mm; m.p. 35°-7° C.; UV (ethanol): λmax. 254 nm., ε: 17,180; Cl 15.97 (16.29).

reactant | 2-chloro-nicotinoyl chloride | 150 g | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
reactant | AlCl3 | 238 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | water | O | H2O
reactant | benzene | 400 ml | C1=CC=CC=C1 | C6H6
product | 3-benzoyl-2-chloro-pyridine | C(C1=CC=CC=C1)(=O)C=1C(=NC=CC1)Cl | C12H8ClNO
